US07939533B2
b) 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-methanesulfonyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 0.16 g (0.31 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(6-piperazin-1-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide and 38 mg (0.38 mmol) triethylamine in 4 ml dichloromethane were added 38 mg (0.33 mmol) methanesulfonyl chloride at 0° C. After completed addition the reaction mixture was allowed to warm to room temperature. Conversion was monitored by thin layer chromatography. After complete consumption of the starting material the reaction mixture was diluted with water and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 0.15 g (75%) of the title compound as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(6-piperazin-1-yl-4-o-tolyl-pyridin-3-yl)-isobutyramide | 0.31 mmol, 0.16 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCNCC1)C)(C)C)(F)F | C29H30F6N4O
reactant | triethylamine | 0.38 mmol, 38 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.33 mmol, 38 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(4-methanesulfonyl-piperazin-1-yl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 0.15 g, 75% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CCN(CC1)S(=O)(=O)C)(C)C)(F)F | C30H32F6N4O3S
